US08242125B2
150-A. (4-(1H-indol-5-yloxy)pyrimidin-2-yl)methyl acetate
To a suspension of nano zinc metallic powder (Strem Chemicals; average particle size 75-125 nm) (1.34 g, 20.52 mmol) in DMF (8 ml) is added 1,2-dibromoethane (0.19 mL, 2.2 mmol). The heterogeneous mixture is heated to 60° C. and then stirred for 10 min. The mixture is cooled to room temperature and charged with chlorotrimethylsilane (0.24 mL, 1.8 mmol). The reaction vessel is then sonicated in a room temperature water bath for 30 min. The suspension is then left standing for ca. 30 min to permit the solid to settle and the supernatant is then removed via syringe. DMF (8 ml) is then added, followed by bromomethyl acetate (1.00 mL, 10.3 mmol). The reaction mixture is then stirred for 2 hr at room temperature. The suspension is then left standing for 1 hour to permit the solid to settle. Next a separate flask is charged with 5-(2-chloropyrimidin-4-yloxy)-1H-indole (450 mg, 1.83 mmol), prepared as described in Example 73-A, DMF (3 mL) is then added to the 5-(2-chloropyrimidin-4-yloxy)-1H-indole followed by Pd(dppf)Cl2.CH2Cl2 (230 mg, 0.28 mmol). To this solution is added a portion of the supernatant (6 mL), from the flask containing the organozincate, via syringe. The reaction is heated at 50° C. for 16 h then cooled to room temperature and diluted with DCM and saturated aqueous NR4Cl. The layers are separated and the aqueous layer is extracted 2 additional times with DCM. The organic layers are combined dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue is purified via FCC (0-60% EtOAc/DCM) to provide the title compound. MS (ESI) m/z 284.0 (M+1).

reactant | 1,2-dibromoethane | 2.2 mmol, 0.19 mL | BrCCBr | C2H4Br2
reactant | chlorotrimethylsilane | 1.8 mmol, 0.24 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | bromomethyl acetate | 10.3 mmol, 1.00 mL | C(C)(=O)OCBr | C3H5BrO2
reactant | 5-(2-chloropyrimidin-4-yloxy)-1H-indole | 1.83 mmol, 450 mg | ClC1=NC=CC(=N1)OC=1C=C2C=CNC2=CC1 | C12H8ClN3O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | zinc | 20.52 mmol, 1.34 g | [Zn] | Zn
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | CH2Cl2 | 0.28 mmol, 230 mg | C(Cl)Cl | CH2Cl2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (4-(1H-indol-5-yloxy)pyrimidin-2-yl)methyl acetate | C(C)(=O)OCC1=NC=CC(=N1)OC=1C=C2C=CNC2=CC1 | C15H13N3O3
